US05508411
Scheme A, step c: (R)-2,2,2-Trichloro-1-[2-chloro-cyclohex-2-enyloxy)-ethylideneamine
Combine sodium hydride (0.50 g, 60% in oil, 12 mmol) and diethyl ether (50 mL) and cool to 0° C. Add over 15 minutes a solution of (R)-2-chloro-cyclohex-2-enylalcohol (23.0 g, 160 mmol) in diethyl ether (40 mL). Stir until gas evolution ceases. Add a solution of trichloroacetonitrile (20 mL, 200 mmol) in diethyl ether (30 mL). Stir at 0° C. for 30 minutes and then warm to ambient temperature over 1.5 hours. Evaporate the reaction mixture in vacuo to give the title compound.

reactant | sodium hydride | 12 mmol, 0.50 g | [H-].[Na+]
reactant | (R)-2-chloro-cyclohex-2-enylalcohol | 160 mmol, 23.0 g | ClC=1[C@@H](CCCC1)O | C6H9ClO
reactant | trichloroacetonitrile | 200 mmol, 20 mL | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | (R)-2,2,2-Trichloro-1-[2-chloro-cyclohex-2-enyloxy)-ethylideneamine | ClC(C(O[C@H]1C(=CCCC1)Cl)=N)(Cl)Cl | C8H9Cl4NO
